US08048884B2
1-Methyl-1H-pyrazole-4-sulfonic acid (2-{4-[2-(4-methoxymethyl-phenyl)-pyridin-3-yl]-piperazin-1-yl}-ethyl)-methyl-amide hydrochloride
Dissolve 1-methyl-1H-pyrazole-4-sulfonic acid {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amide (0.200 g, 0.501 mmol) in DME-H2O (6 mL; 3:1 v/v, previously degassed with nitrogen). Add 4-(methoxymethyl)boronic acid (0.125 g, 0.752 mmol), potassium carbonate (0.166 g, 1.203 mmol) and tetrakis(triphenylphosphine)-palladium (0.029 g, 0.025 mmol). Heat the reaction mixture at 80° C. for 8 hr. Cool to room temperature and concentrate to remove DME. Dilute with ethyl acetate and brine. Extract the aqueous layer with ethyl acetate. Combine the organic phases, dry over sodium sulfate, filter, and concentrate. Purify by silica gel chromatography eluting with dichloromethane:methanol 94:6 to 90:10 to afford the freebase of the title compound with minor impurities. Purify by SCX eluting sequentially with dichloromethane, dichloromethane:methanol 1:1, methanol, and 1N ammonia in methanol. Pass the pure free base through a silica gel plug eluting with dichloromethane:methanol 4:1 to afford the free base of the title compound.

reactant | 1-methyl-1H-pyrazole-4-sulfonic acid {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amide | 0.501 mmol, 0.200 g | ClC1=NC=CC=C1N1CCN(CC1)CCN(S(=O)(=O)C=1C=NN(C1)C)C | C16H23ClN6O2S
reactant | potassium carbonate | 1.203 mmol, 0.166 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME H2O | COCCOC.O
catalyst | tetrakis(triphenylphosphine)-palladium | 0.025 mmol, 0.029 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-Methyl-1H-pyrazole-4-sulfonic acid (2-{4-[2-(4-methoxymethyl-phenyl)-pyridin-3-yl]-piperazin-1-yl}-ethyl)-methyl-amide hydrochloride | Cl.COCC1=CC=C(C=C1)C1=NC=CC=C1N1CCN(CC1)CCN(S(=O)(=O)C=1C=NN(C1)C)C | InChI=1S/C24H32N6O3S.ClH/c1-27-18-22(17-26-27)34(31,32)28(2)11-12-29-13-15-30(16-14-29)23-5-4-10-25-24(23)21-8-6-20(7-9-21)19-33-3;/h4-10,17-18H,11-16,19H2,1-3H3;1H
